US08217065B2
G. 6-[5-(4-Chlorophenyl)-oxazol-2-yl]-2-(2,6-dichlorophenyl)-1H-benzimidazole
A mixture of 2-(2,6-dichlorophenyl)-3H-benzimidazole-5-carboxylic acid [2-(4-chlorophenyl)-2-oxo-ethyl]-amide (310 mg, 0.68 mmol) and Burgess reagent (644 mg, 2.70 mmol) THF (10 mL) was heated in a microwave apparatus at 150° C. for 30 min. The mixture was poured into ethyl acetate and extracted with water and brine. The organic phase was dried, filtered, and the solvent removed under reduced pressure. The residue was purified by chromatography using a gradient of 40-75% heptane/ethyl acetate followed by a second chromatography with dichloromethane/acetone (0-20% gradient) to give the title compound. H1-NMR (DMSO-d6): δ 8.69 (m, broad, 1H), 8.34 (d, J=8.5 Hz, 1H), 8.13 (d, J=8.2, Hz 2H), 8.04 (s, broad, 1H), 7.95 (s, 1H), 7.84 (m, 3H), 7.75 (d, J=8.6 Hz, 2H). MS: m/z 441.9 (M+1); High resolution MS (M+H): theory 440.0124, measured 440.0126.

reactant | 2-(2,6-dichlorophenyl)-3H-benzimidazole-5-carboxylic acid [2-(4-chlorophenyl)-2-oxo-ethyl]-amide | 0.68 mmol, 310 mg | ClC1=CC=C(C=C1)C(CNC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1)=O | C22H14Cl3N3O2
reactant | Burgess reagent | 2.70 mmol, 10 mL, 644 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[5-(4-Chlorophenyl)-oxazol-2-yl]-2-(2,6-dichlorophenyl)-1H-benzimidazole | ClC1=CC=C(C=C1)C1=CN=C(O1)C=1C=CC2=C(NC(=N2)C2=C(C=CC=C2Cl)Cl)C1 | C22H12Cl3N3O
